US08669234B2
This compound was prepared using the procedure used to prepare [1-(6-{5-[4-(6-{2-[2-(2-Cyclopropyl-2-methoxycarbonylamino-acetyl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-imidazol-4-yl}-naphthalen-2-yl)-phenyl]-1H-imidazol-2-yl}-5-aza-spiro[2.4]heptane-5-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (example from JJC) using 3-Methoxy-2-methoxycarbonylamino-3-methyl-butyric acid (0.020 g, 0.096 mmol) to provide [2-Methoxy-1-(3-{5-[6-(4-{2-[5-(2-methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (0.019 g, 35%) as a white solid.

reactant | [1-(6-{5-[4-(6-{2-[2-(2-Cyclopropyl-2-methoxycarbonylamino-acetyl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-imidazol-4-yl}-naphthalen-2-yl)-phenyl]-1H-imidazol-2-yl}-5-aza-spiro[2.4]heptane-5-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C=1NC(=NC1)C1N(C2CCC1C2)C(C(NC(=O)OC)C2CC2)=O)=O | C48H54N8O6
reactant | 3-Methoxy-2-methoxycarbonylamino-3-methyl-butyric acid | 0.096 mmol, 0.020 g | COC(C(C(=O)O)NC(=O)OC)(C)C | C8H15NO5
product | [2-Methoxy-1-(3-{5-[6-(4-{2-[5-(2-methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 0.019 g, 35% | COC(NC(C(C)(C)OC)C(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC3=CC=C(C=C3C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CC3(CC3)C1)C(C(C(C)C)NC(=O)OC)=O)C2)=O | C49H58N8O7
